US06172057B2
2-(4-Methoxy-phenylsulfanyl)-3-methyl-butyric acid ethyl ester was prepared according to the general method of Example 1. Starting from ethyl 2-bromo-3-methyl-butanoate (20.9 g, 100 mmol) and 4-methoxybenzenethiol (14.0 g, 100 mmol), 30 g of the product was isolated. Yield 99%; Light yellow oil; MS: 271 (M+H)+.

reactant | ethyl 2-bromo-3-methyl-butanoate | 100 mmol, 20.9 g | BrC(C(=O)OCC)C(C)C | C7H13BrO2
reactant | 4-methoxybenzenethiol | 100 mmol, 14.0 g | COC1=CC=C(C=C1)S | C7H8OS
product | 2-(4-Methoxy-phenylsulfanyl)-3-methyl-butyric acid ethyl ester | Yield 99% | C(C)OC(C(C(C)C)SC1=CC=C(C=C1)OC)=O | C14H20O3S
